US08049015B2
3-Benzyl-1-ethyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea and (5-bromo-6-methoxy-pyridin-3-yl)-acetic acid ethyl ester were reacted as described in Example 11, Step 4 to provide {5-[2-(3-benzyl-1-ethyl-ureidomethyl)-4-trifluoromethyl-phenyl]-6-methoxy-pyridin-3-yl}-acetic acid ethyl ester.

reactant | 3-Benzyl-1-ethyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea | C(C1=CC=CC=C1)NC(N(CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)CC)=O | C24H30BF3N2O3
reactant | (5-bromo-6-methoxy-pyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC(=C(C1)Br)OC)=O | C10H12BrNO3
product | {5-[2-(3-benzyl-1-ethyl-ureidomethyl)-4-trifluoromethyl-phenyl]-6-methoxy-pyridin-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=NC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)OC)=O | C28H30F3N3O4
